US08912186B2
4) Dimethyl 2-(1-(4-chlorophenyl)-3-(4-hydroxyphenyl)-3-oxopropyl)malonate
A solution of dimethyl 2-(1-(4-chlorophenyl)-3-(4-(methoxymethoxy)phenyl)-3-oxopropyl)malonate (0.3 g) in methanol (10 ml) was treated with 10% HCl (2 ml) and the resulting mixture was refluxed for 2 h. After cooling to room temperature the solvent was removed, the residue was extracted with ethyl acetate, and dried (magnesium sulphate). After concentration the crude (0.3 g yellow oil) was used for the next step without further purification.

reactant | dimethyl 2-(1-(4-chlorophenyl)-3-(4-(methoxymethoxy)phenyl)-3-oxopropyl)malonate | 0.3 g | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OCOC)C(C(=O)OC)C(=O)OC | C22H23ClO7
reactant | HCl | 2 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | Dimethyl 2-(1-(4-chlorophenyl)-3-(4-hydroxyphenyl)-3-oxopropyl)malonate | ClC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)O)C(C(=O)OC)C(=O)OC | C20H19ClO6
